US07524852B2
Synthesis of 2,4-dichloro-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine hydrochloride
6-Benzyl-2,4-dichloro-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine hydrochloride (0.500 g, 0.00158 mol) prepared according to Process Step 2 was dissolved in 1,2-dichloroethane (15 mL), and the solution was mixed with triethylamine (0.160 g, 0.00158 mol) added dropwise under ice-cooling. The resulting solution was mixed with 1-chloroethyl chloroformate (0.680 g, 0.00478 mol) added dropwise at room temperature, followed by stirring under reflux for three hours. The reaction mixture was mixed with water (20 mL), followed by shaking and separation. The organic layer was dried over anhydrous magnesium sulfate, and was concentrated under reduced pressure. The residue was dissolved in methanol (15 mL), followed by reflux of the solution for one hour. After standing the reaction mixture to cool, methanol was distilled off under reduced pressure, to thereby yield 2,4-dichloro-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine hydrochloride (0.19 g, in a yield of 54%).

reactant | 6-Benzyl-2,4-dichloro-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine hydrochloride | 0.00158 mol, 0.500 g | Cl.C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2C1)Cl)Cl
reactant | triethylamine | 0.00158 mol, 0.160 g | C(C)N(CC)CC | C6H15N
reactant | 1-chloroethyl chloroformate | 0.00478 mol, 0.680 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | water | 20 mL | O | H2O
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
product | 2,4-dichloro-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine hydrochloride | yield of 54% | Cl.ClC=1N=C(C2=C(N1)CNC2)Cl | InChI=1S/C6H5Cl2N3.ClH/c7-5-3-1-9-2-4(3)10-6(8)11-5;/h9H,1-2H2;1H
